US05369186
(Preparation of ethylene/propylene/1-iodo-3-butene terpolymers)
Into a 2 liter glass autoclave heated at the desidered temperature, toluene, 1-iodo-3-butene, V(acetylacetonate)3 and AlEt2I were introduced under nitrogen flow. A continuous constant ratio ethylene/propylene flow was then introduced.

reactant | 1-iodo-3-butene | ICCC=C | C4H7I
reactant | AlEt2I | [Al](CC)(CC)I
reactant | ethylene/propylene | C=C.C=CC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethylene/propylene 1-iodo-3-butene | C=C.C=CC.ICCC=C | InChI=1S/C4H7I.C3H6.C2H4/c1-2-3-4-5;1-3-2;1-2/h2H,1,3-4H2;3H,1H2,2H3;1-2H2
